US08003677B2
N-(2-Cyclopentylethyl)-6-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]nicotinamide
6-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinic acid (50 mg, 0.124 mmol) was reacted with cyclopentylethylamine analogously to example 3d. Yield: 34%, M+H+: 499.28.

reactant | 6-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinic acid | 0.124 mmol, 50 mg | FC(C1=C(C(=O)N2CC3=C(C2)CN(C3)C3=NC=C(C(=O)O)C=C3)C=CC=C1)(F)F | C20H16F3N3O3
reactant | cyclopentylethylamine | C1(CCCC1)CCN | C7H15N
product | N-(2-Cyclopentylethyl)-6-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]nicotinamide | Yield: 34% | C1(CCCC1)CCNC(C1=CN=C(C=C1)N1CC=2CN(CC2C1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C27H29F3N4O2
